US06147061
2-[(4-Aminobenzyl)methoxyphosphinoylmethyl]4-methylpentanoic acid benzyl ester (230 mg, 0.57 mmole), benzoyl chloride (96 mg, 0.68 mmole), and triethylamine (69 mg, 0.68 mmole) were combined in cold (ice bath) chloroform (10 ml). After stirring for 1 hour at ice bath temperature the reaction mixture was diluted with chloroform (150 ml) and washed with water (20 ml), 1N hydrochloric acid (2×20 ml) and saturated sodium bicarbonate solution (2×20 ml) and dried with magnesium sulfate. After filtration and concentration the yellow residue was chromatographed (ethyl acetate) to give 190 mg (66%) of 2-[(4-Benzoylaminobenzyl)methoxy phosphinoylmethyl]4-methylpentanoic acid benzyl ester as a light yellow oil.

reactant | 2-[(4-Aminobenzyl)methoxyphosphinoylmethyl]4-methylpentanoic acid benzyl ester | 0.57 mmole, 230 mg | C(C1=CC=CC=C1)OC(C(CC(C)C)CP(=O)OCCC1=CC=C(C=C1)N)=O | C22H30NO4P
reactant | benzoyl chloride | 0.68 mmole, 96 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.68 mmole, 69 mg | C(C)N(CC)CC | C6H15N
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[(4-Benzoylaminobenzyl)methoxy phosphinoylmethyl]4-methylpentanoic acid benzyl ester | 190 mg, 66% | C(C1=CC=CC=C1)OC(C(CC(C)C)CP(=O)OCCC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)=O | C29H34NO5P
